US08957069B2
5-amino-2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one
5% palladium carbon (50% water content, 9.50 g) was added to a mixed solution of tetrahydrofuran (100 mL) and methanol (100 mL) containing 5-(benzylamino)-2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one (9.48 g, 32.1 mmol) synthesized in Reference Example 19, and the mixture was stirred under hydrogen atmosphere at room temperature for 22 hours. Palladium carbon was removed by filtration, and then the solvent was removed under reduced pressure to give 6.59 g of the title compound (yield: 100%).

reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | 5-(benzylamino)-2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one | 32.1 mmol, 9.48 g | C(C1=CC=CC=C1)NC=1C(=C(C2=C(C(C(O2)(C)C)=O)C1)C)C | C19H21NO2
catalyst | palladium carbon | 9.50 g | [C].[Pd]
solvent | methanol | 100 mL | CO | CH4O
product | 5-amino-2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one | 6.59 g, yield: 100% | NC=1C(=C(C2=C(C(C(O2)(C)C)=O)C1)C)C | C12H15NO2
